US08183246B2
3-(2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropoxy)propionic acid tert.-butyl ester
Add 2.2 ml of 45% sodium hydroxide solution to a mixture of 900 mg (2.31 mmol) 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol, 1477 mg (11.53 mmol) tert.-butyl acrylate and 157 mg (0.46 mmol) tetra-n-butylammonium hydrogensulphate in 10 ml dichloromethane at 0° C., and stir at this temperature for one hour. After a further 16 hours at room temperature, filter the reaction mixture, and concentrate the filtrate by vacuum evaporation. Purify the raw product by preparative RP-HPLC (gradient: water/acetonitrile). 690 mg (57% of theor.) of the desired product is obtained as (R,S/S,R) racemate.

reactant | sodium hydroxide | 2.2 ml | [OH-].[Na+]
reactant | 3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}butan-2-ol | 2.31 mmol, 900 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OC(C(C)O)C)C2=CC=CC=C2 | C23H22N2O4
reactant | tert.-butyl acrylate | 11.53 mmol, 1477 mg | C(C=C)(=O)OC(C)(C)C | C7H12O2
catalyst | tetra-n-butylammonium hydrogensulphate | 0.46 mmol, 157 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(2-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylpropoxy)propionic acid tert.-butyl ester | C(C)(C)(C)OC(CCOC(C(C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C30H34N2O6
